US07855202B2
3′-Chloro-5-nitro-2,4′-bipyridin-6-amine
Following the same procedure as in Intermediate 1 (step a), but using 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-chloropyridine, 6-chloro-3-nitropyridin-2-amine was transformed into the title compound as a white solid (2.14 g, 99%).

reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-chloropyridine | CC1(OB(OC1(C)C)C1=C(C=NC=C1)Cl)C | C11H15BClNO2
reactant | 6-chloro-3-nitropyridin-2-amine | ClC1=CC=C(C(=N1)N)[N+](=O)[O-] | C5H4ClN3O2
product | 3′-Chloro-5-nitro-2,4′-bipyridin-6-amine | 2.14 g, 99% | ClC=1C=NC=CC1C1=NC(=C(C=C1)[N+](=O)[O-])N | C10H7ClN4O2
